US05202312
4-[2-(N-Benzyloxycarbonylamino)ethyl]5-methoxycarbonylimidazole (1.2 g) is dissolved in 30% hydrogenbromide acetic acid solution (20 ml) and the solution is stirred at room temperature for 30 minutes. The reaction mixture is concentrated under reduced pressure and the residue is triturated with ether to give 4-(2-aminoethyl)-5-methoxycarbonylimidazole dihydrobromide. To the thus-obtained product are added dimethylformamide (20 ml), N-tert-butoxycarbonyl-L-phenylalanyl-L-phenylalanine (1.65 g) and 1-hydroxybenzotriazole (0.54 g). Dicyclohexylcarbodiimide (0.83 g) is added to the mixture under ice-cooling and the mixture is stirred for 10 minutes. Triethylamine (1.4 ml) is added to the mixture and the mixture is stirred at room temperature overnight. Ethyl acetate is added to the reaction mixture, and insoluble materials are filtered off. The filtrate is washed with an aqueous sodium bicarbonate solution and an aqueous sodium chloride solution, dried, and then concentrated to remove solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:methanol=12:1) and crystallized with ether to give 4-{2-[N-(N-tert-butoxycarbonyl-L-phenylalanyl-L-phenylalanyl) amino]ethyl}-5 -methoxycarbonylimidazole (1.4 g) as colorless crystals. Yield ; 62.2%

reactant | 4-[2-(N-Benzyloxycarbonylamino)ethyl]5-methoxycarbonylimidazole | 1.2 g | C(C1=CC=CC=C1)OC(=O)NCCC=1N=CNC1C(=O)OC | C15H17N3O4
reactant | hydrogenbromide acetic acid | 20 ml | C(C)(=O)O.Br
product | 4-(2-aminoethyl)-5-methoxycarbonylimidazole dihydrobromide | Br.Br.NCCC=1N=CNC1C(=O)OC | InChI=1S/C7H11N3O2.2BrH/c1-12-7(11)6-5(2-3-8)9-4-10-6;;/h4H,2-3,8H2,1H3,(H,9,10);2*1H
